US07319170B2
Step D: Preparation of N-[(cyclohexylamino)carbonyl]-3-[3-(4-phenoxy-2-propylphenoxy)propoxy]benzenesulfonamide
To a solution of 3-[3-(4-phenoxy-2-propyl phenoxy)propoxy]benzenesulfonamide (0.04 g, 0.0906 mmol) and acetone (3 mL) was added potassium carbonate (0.025 g, 0.181 mmol). To the resulting suspension was added cyclohexyl isocyanate (0.023 mL, 0.181 mmol) dropwise. The reaction suspension was then stirred in a 65° C. oil bath for 5 h. After cooling to room temperature, the reaction was concentrated to a residue. The residue was partitioned between ethyl acetate and water. The ethyl acetate phase was dried over sodium sulfate, filtered, and concentrated to an oil. The oil was chromatographed over silica gel with hexanes/ethyl acetate (4:1) and hexanes/ethyl acetate (3:1) to afford the title compound.

reactant | 3-[3-(4-phenoxy-2-propyl phenoxy)propoxy]benzenesulfonamide | 0.0906 mmol, 0.04 g | O(C1=CC=CC=C1)C1=CC(=C(OCCCOC=2C=C(C=CC2)S(=O)(=O)N)C=C1)CCC | C24H27NO5S
reactant | potassium carbonate | 0.181 mmol, 0.025 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclohexyl isocyanate | 0.181 mmol, 0.023 mL | C1(CCCCC1)N=C=O | C7H11NO
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | N-[(cyclohexylamino)carbonyl]-3-[3-(4-phenoxy-2-propylphenoxy)propoxy]benzenesulfonamide | C1(CCCCC1)NC(=O)NS(=O)(=O)C1=CC(=CC=C1)OCCCOC1=C(C=C(C=C1)OC1=CC=CC=C1)CCC | C31H38N2O6S
